US07008950B1
3-(4-isopropylphenyl)-5-(4-methoxybenzyloxy)-2,4,6,7-tetramethylbenzofuran
Using 3-(4-isopropylphenyl)-2,4,6,7-tetramethylbenzofuran-5-ol and 4-methoxybenzyl chloride, the title compound was obtained in the same manner as in Example 1. This was oily.

reactant | 3-(4-isopropylphenyl)-2,4,6,7-tetramethylbenzofuran-5-ol | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)O)C)C | C21H24O2
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 3-(4-isopropylphenyl)-5-(4-methoxybenzyloxy)-2,4,6,7-tetramethylbenzofuran | Yield: 64% | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)OCC2=CC=C(C=C2)OC)C)C | C29H32O3
